US05962440
A. N-Benzylpipecolic acid hydrochloride
A mixture of ethyl pipecolinate hydrochloride (10 g, 52 mmol), benzylbromide (7 mL, 57 mmol) and potassium carbonate (15 g, 114 mmol) in DMF (80 mL) was stirred at room temperature overnight. The solvent was removed in vacuo. The residue was partitioned between dichloromethane (100 mL) and water (50 mL). The aqueous layer was extracted with dichloromethane (2×100 mL), dried over Na2SO4, then evaporated to give a yellow oil. The crude product was chromatographed (500 g silica gel) eluting with a stepgradient of 8%-15% ethyl acetate in hexane. Pure fractions were combined to give title compound (12.3 g, 96%) as a colorless oil.

reactant | ethyl pipecolinate hydrochloride | 52 mmol, 10 g | Cl.N1C(C(=O)OCC)CCCC1
reactant | benzylbromide | 57 mmol, 7 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 114 mmol, 15 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | N-Benzylpipecolic acid hydrochloride | 12.3 g, 96% | Cl.C(C1=CC=CC=C1)N1C(C(=O)O)CCCC1 | InChI=1S/C13H17NO2.ClH/c15-13(16)12-8-4-5-9-14(12)10-11-6-2-1-3-7-11;/h1-3,6-7,12H,4-5,8-10H2,(H,15,16);1H
